US07528143B2
4-(3-Bromo-benzenesulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester (Intermediate 46)
3-Bromo-benzenesulfonyl chloride (2.2 g, 8.7 mmol) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (2 g, 10 mmol) were combined and diluted with DCM (50 mL) and TEA (3.6 mL, 26 mmol). After 16 h, reaction was poured into separatory funnel and washed with water. Organic phase was then washed with brine, dried over sodium sulfate, filtered and evaporated to clear oil which solidified upon standing (3.6 g, 98%).

reactant | 3-Bromo-benzenesulfonyl chloride | 8.7 mmol, 2.2 g | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 10 mmol, 2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-Bromo-benzenesulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC(=CC=C1)Br | C16H23BrN2O4S
